US06416861B1
Preparation of 5-Allyldimethylsilyl-2-bromopyridine (7 Scheme 27).
To a solution of 2,5-dibromopyridine (18.6 g, 78.5 mmol) in dry THF (700 mL) at −78° C. was added n-butyllithium (31.4 mL, 2.5 M solution in hexanes, 78.5 mmol). After being stirred for 1 h −78° C., allylchlorodimethylsilane (11 g, 78.5 mmol) was added dropwise over a period of 20 min. The reaction mixture was stirred further for 1 h and warmed to room temperature. Concentrated NH4Cl (5 mL) was added to the solution, and the reaction mixture was concentrated. The resulting yellow oil was concentrated, extracted with ethyl acetate/water, and the organic layer was dried, concentrated, and purified by column chromatography (1:5 ethyl acetate/hexanes) to give the desired compound as a liquid (12.7 g, 55%); 1H NMR (300 MHz, CDCl3) δ 0.19 (s, 6 H), 1.63 (d, J=7.80 Hz, 2 H), 7.10 (dt, J=6.90, 0.90 Hz, 1 H), 4.75 (s, 1 H), 5.59 (ddt, J=16.50, 10.50, 8.10 Hz, 1 H), 7.32 (d, J=8.10 Hz, 1 H), 7.50 (m, 1 H), 8.28 (d, J=2.10 Hz, 1 H); 13C NMR (75 MHz, CDCl3) −3.5 (2C), 23.2, 114.6, 127.8, 132.5, 133.4, 143.7, 143.8, 154.6. HRMS (EI) calcd for C10H14BrNSi 255.0077 and 257.0058, found 255.0054 and 257.0028.

reactant | 2,5-dibromopyridine | 78.5 mmol, 18.6 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | n-butyllithium | 78.5 mmol, 2.5 M, 31.4 mL | C(CCC)[Li]
reactant | allylchlorodimethylsilane | 78.5 mmol, 11 g | C(C=C)[Si](C)(C)Cl | C5H11ClSi
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | THF | 700 mL | C1CCOC1 | C4H8O
product | 5-Allyldimethylsilyl-2-bromopyridine | 12.7 g, 55% | C(C=C)C=1C=C(C(=NC1)Br)[SiH](C)C | C10H14BrNSi
